US04369309
3,4-Dihydro-2-n-butylaminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole:
To a solution of 2.24 g of 3,4-dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole in chloroform (30 ml) was added 4 ml of n-butylamine. A catalytic amount of sodium hydride was thereafter added under ice-cooling, stirring conditions. After stirring for 15 minutes at room temperature, the mixture was refluxed for 24 hours. The reaction mixture was cooled and then condensed under reduced pressure. The residue was added with water and extracted with chloroform. The extract was washed with water, dried over anhydrous magnesium sulfate. Chloroform was evaporated under reduced pressure. The residue was chromatographed on silica gel and eluted with chloroform to obtain 0.71 g (yield: 43.3%) of the intended product, m.p. 122°-124° C.; IR νmaxKBr cm-1 : 3320, 3100-2700, 1430; Anal. Calcd. for C15H21N3S: C, 65.42; N, 7.68; N, 15.26; S, 11.64; Found C, 65.63; H, 7.61; N, 15.46; S, 11.30.

reactant | 3,4-dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 2.24 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCN2C(=NC3=C2C=CC=C3)S1)C | C18H18N2O3S2
reactant | n-butylamine | 4 ml | C(CCC)N | C4H11N
reactant | sodium hydride | [H-].[Na+]
reactant | water | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-Dihydro-2-n-butylaminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 0.71 g, yield: 43.3% | C(CCC)NCC1CCN2C(=NC3=C2C=CC=C3)S1 | C15H21N3S
